Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with h/o dilated cardiomyopathy, AS s/p AVR, a-fib on 
coumadin, biV pacemaker/ defibrillator, presents with shortness 
of breath.  This morning, pt was asked for a walk with the nurse 
at the rehab, and during the walk, he felt "hearting racing", 
however he continued to walk with the nurse regardless.  He 
requested to go back to bed, and subsequently felt short of 
breath and nausea.  Pt denies any chest pain/pressure, 
diaphoresis, lightheadedness or vomiting.  He has baseline 
cough, but no acute worsening.  
The patient states that the shortness of breath progressed 
throughout the day. He denies recent sickness, congestion, sore 
throat, fever, chill, rigor, diarrhea.  
.
Of note, pt was recently admitted for witness syncope secondary 
to V-tach and ICD firing.  Pt was loaded with amiodarone during 
last admission, and was discharged to rehab.  On this admission, 
his weight was 55.7, down from 57.5.  
.  
In the ED, initial vitals were  98.8 89 124/98 36 100% on 
Non-Rebreather.  Pt received duoneb and 40 mg iv lasix, with 
improved respiratory status.  Pt was seen by cardiology fellow, 
who felt that pt was dry and recommended 500 cc iv fluid.  Pt 
received 250 cc ivf.  
.  
Cardiac review of systems is notable orthopnea, dyspnea with 
limited exertion (some times at rest).  

 
Past Medical History:
1. CARDIAC RISK FACTORS: -Diabetes, +Dyslipidemia, -Hypertension 
 
2. CARDIAC HISTORY: Cardiomyopathy, LVEF 20%,  
-CABG:  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD: s/p BiV ICD ___  
3. OTHER PAST MEDICAL HISTORY:  
LBBB  
Aortic stenosis s/p tissue AVR in ___  
Atrial fibrillation s/p DC cardioversion in ___ with reversion  

back to AF in ___, last cardioversion ___ Rectal cancer s/p bowel resection and colostomy,  
chemotherapy and radiation  
___ Bowel obstruction at ___ possibly related to a hernia s/p  
surgical repair  
Blindness of left eye secondary to an injury at age ___  
Mildly hard of hearing  

 
Social History:
___
Family History:
mother and brother with afib. father with CAD and rheumatic 
fever, died at ___ yo. No family history of cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
Physical EXAM
VS: 95.9, 97/74, 71, 22, 100% on 4L
WEIGHT: 55kg
GENERAL: NAD. Alert and Oriented x3.  
HEENT: PERRL, MMM, OP clear.  
NECK: Supple with JVP of 8 cm, no lymphadenopathy.  
CARDIAC: Irregularly irregular, ___ holosystolic murmur best 
heart at apex with radiation to axilla
LUNGS: bilateral crackles heard in lower ___ of lung fields, 
with partial improvement after coughing
ABDOMEN: Soft, NTND. no HSM
EXTREMITIES: 2+ ___ bilaterally, no pitting edema
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 
 
Pertinent Results:
___ 08:00PM   GLUCOSE-104* UREA N-49* CREAT-1.3* 
SODIUM-132* POTASSIUM-4.1 CHLORIDE-91* TOTAL CO2-31 ANION GAP-14
___ 08:00PM   CK(CPK)-55
___ 08:00PM   CK-MB-4 cTropnT-<0.01
___ 08:00PM   CALCIUM-8.4 PHOSPHATE-4.3 MAGNESIUM-2.1
___ 08:00PM   WBC-6.2 RBC-4.82 HGB-12.2* HCT-39.6* MCV-82 
MCH-25.3* MCHC-30.9* RDW-17.3*
___ 08:00PM   PLT COUNT-110*
___ 08:00PM   ___ PTT-56.6* ___
___ 02:14PM   ___ PTT-53.6* ___
___ 01:29PM   TYPE-ART PO2-61* PCO2-29* PH-7.46* TOTAL 
CO2-21 BASE XS--1 COMMENTS-GREEN TOP
___ 01:05PM   GLUCOSE-140* UREA N-51* CREAT-1.4* 
SODIUM-126* POTASSIUM-4.4 CHLORIDE-88* TOTAL CO2-20* ANION 
GAP-22*
___ 01:05PM   estGFR-Using this
___ 01:05PM   ALT(SGPT)-339* AST(SGOT)-251* LD(LDH)-466* 
CK(CPK)-69 ALK PHOS-87 TOT BILI-3.1*
___ 01:05PM   CK-MB-5 cTropnT-<0.01 ___
___ 01:05PM   ALBUMIN-3.6 CALCIUM-8.4 PHOSPHATE-4.2 
MAGNESIUM-2.3
___ 01:05PM URINE  HOURS-RANDOM
___ 01:05PM   WBC-10.0 RBC-5.17 HGB-13.1* HCT-42.4 MCV-82 
MCH-25.3* MCHC-30.9* RDW-17.4*
___ 01:05PM   NEUTS-80.4* LYMPHS-13.2* MONOS-5.7 EOS-0.3 
BASOS-0.3

___ cxr:
FINDINGS: One portable AP upright view of the chest. Severe 
cardiomegaly is 
stable. There is pulmonary vascular engorgement and mild 
interstitial 
pulmonary edema, less severe compared to ___. No 
evidence of 
pneumonia. There are no pleural effusions or pneumothorax. Left 
transvenous 
pacemaker wires are seen in the appropriate position. Median 
sternotomy clips 
are in appropriate position. 
  
IMPRESSION: Severe cardiomegaly, pulmonary vascular engorgement, 
and mild 
interstitial edema consistent with congestive heart failure, 
less severe 
compared to ___. 

 
Brief Hospital Course:
___ with h/o dilated cardiomyopathy, AS s/p AVR, a-fib on 
coumadin, biV pacemaker / defibrillator, presents with shortness 
of breath from rehab.  

Chronic systolic heart failure:  Patient has ___ Class ___ 
heart failure. CXR showed slightly improved congestion compared 
to prior hospitalization CXR prior to discharge. No peripheral 
edema. Pt's weight 55.2 kg on admission which is improved from 
prior discharge weight of 57Kg. Pt thought most likely to be 
euvolemic-mildly intravascularly dry. In the emergency 
department he was given 250cc bolus. Patient's discharge weight 
was 55 Kg. He will go to rehab with bumex 1mg daily (previously 
he was on 1mg BID) and goal is to titrate bumex based on daily 
weights. 

Shortness of Breath Episodes: Of note, patient has history of 
SOB episodes which is thought likely to be cheynes stokes 
breathing from end stage heart failure. These episodes usualy 
resolve on their own when calming patient down. Dr ___ 
___ that he be contacted directly if patient has shortness 
of breath that concerns the staff at rehab so he can help triage 
patient appropriately. His office: ___.

Transaminitis: Patient has transaminitis consistent with 
hepatocellular pattern. This is new as LFTs from ___ 
at ___ were wnl. ___ be secondary to residual abnormality 
from recent heart failure exacerbation (LFTs not checked at that 
time).  Also in the differential includes amiodarone toxicity, 
however this is less likely since amiodarone induced 
hepatotoxicity often takes several months to appear, not one 
week. Amiodarone was stopped on this admission. Pt will be 
followed outpatient by cardiologist to decide when to resume. 
*REHAB: Check LFTs/Cr in 2 days  on ___ --> fax to Dr. 
___ office (___). Of note, patient's 
atorvastatin 10mg was held on this admission and should be held 
until LFTs resolve.

Acute Renal Failure: Pt baseline Cr 1.1 -> increased to Cr 1.4 
on this admission. This was thought likely secondary to 
intravascular volume depletion and pre-renal. He was given 250cc 
IVF and Cr improved to 1.2 at discharge. Pt's bumex dose was 
lowered to 1mg daily (was previously on 1mg BID). Recommend 
checking lytes and renal function on ___ at rehab. 
*Check LFTs/Cr in 2 days on ___ --> fax to Dr. ___ 
___ office (___)

History of Ventricular Tachycardia: Pt had recent 
hospitalization for episodes of VT. He was started on amiodarone 
200mg TID during that hospitalization. His device was 
interrogated on this admission and he has not had any episodes 
of VT since starting the amiodarone. Amiodarone was stopped on 
this admission in setting of transaminitis. Pt ___ with 
outpatient cardiologist to decide when to resume.  
  
Coronaries: Pt has no evidence of coronary artery disease.  
Cardiac enzymes negative X2. Continued aspirin 81mg.

Rhythm: BiV pacing, CHADS ___, currently on coumadin.  INR 6.3 
on day of discharge which is likely elevated Coumadin should be 
held until INR <3 and at that point would restart coumadin at 
2mg daily. Pt did not have any bleeding and did not require any 
FFP or Vit K.

DNR/DNI: Family meeting was held to discuss patient's poor 
prognosis. Patient and family understand that his illness is 
advanced and his time is limited. Patient agreed to be DNR/DNI. 
He is NOT comfort measures only at this time, but he is DNR/DNI.

  
Transitional Issues For Rehab:
1)Must check daily weights at rehab
2)If patient has shortness of breath that is concerning to the 
staff at rehab, recommend rehab calls Dr ___ office to 
help triage.
3)HOLD coumadin until INR <3, would then restart at 2mg daily. 
Trend INR regularly (every 2 days) until goal ___ and stable on 
coumadin dose.
4)Check LFTs/Cr/lytes in 2 days on ___ --> fax to Dr. 
___ office (___).

 
Medications on Admission:
1. aspirin 81 mg Tablet, Chewable qd.  
2. spironolactone 25 mg po qd  
3. cholecalciferol (vitamin D3) 1,000 unit po qd  
4. multivitamin  po qd 
5. atorvastatin 10 mg po qd
6. ferrous sulfate  Oral
7. docusate sodium 100 mg Capsule bid
8. senna 8.6 mg Tablet bid prn
9. acetaminophen 650 q6 prn
10. amiodarone 200 mg po tid till ___, switch to 200 mg qd 
afterwards
11. bumetanide 1 mg bid  
12. warfarin 2.5 mg po qd  
13. lorazepam 0.5 mg qhs prn  
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
3. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. bumetanide 1 mg Tablet Sig: One (1) Tablet PO once a day: 
Check daily weights.  
9. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
10. benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for sore throat.  
11. LFTs/Lytes  Sig: One (1)   ___: Check: AST, ALT, 
___, Alk phos, Chem 7. Fax to Dr ___: ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Chronic stage IV Heart failure
Acute renal failure
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital for some shortness of breath. 
Your fluid status is actually improved compared to prior since 
your weight is down (57kg->55kg). You were found to have a 
little renal failure but your kidney function improved towards 
your baseline. 
Your liver enzymes were elevated and this might be from being 
volume overloaded the the past. 
For your heart, we encourage you to continue to take amiodarone.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Medication changes:
STOP:
Amiodarone- do not take this until you see Dr ___ his 
nurse practitioner. 
Atorvastatin- your liver enzymes are elevated so this should be 
stopped until they resolve

Coumadin- please stop this until your INR <3. At that point, you 
may resume at a lower dose of 2.0mg daily

CHANGE:
Bumex - change bumex from 1mg twice per day to 1mg once per day

Please resume your other medications as usual.
 
Followup Instructions:
___